US05449810
Into a three-necked flask equipped with a dropping funnel, a three-way cock and a thermometer was placed (2-(1,3-dioxan)-2-yl)ethyl)triphenylphosphonium bromide (12.3 g, 27 mmols), followed by adding tetrahydrofuran (50 ml), suspending, stirring under ice cooling till the liquid temperature reached 10° C. The reaction mixture is added potassium t-butoxide (3.0 g, 27 mmols), followed by elevating the temperature up to room temperature under ice cooling for one hour, stirring for one hour, dropwise adding a tetrahydrofuran (10 ml) solution of 4-(4-propylcyclohexyl)cyclohexanone (15.6 g, 25 mols) over 30 minutes from the dropping funnel, further stirring the reaction mixture for 5 hours after completion of the dropwise addition, adding ether (50 ml), allowing to stand for one hour, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure, isolating and purifying the resulting pale brown oily substance by means of silica gel column chromatography and recrystallizing from ethanol, to obtain 1-(2-(1,3-dioxan)-2-yl)ethylidene)-4-(4-propylcyclohexyl)cyclohexane (4.5 g, 14 mmols).

reactant | triphenylphosphonium bromide | 27 mmols, 12.3 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 27 mmols, 3.0 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4-(4-propylcyclohexyl)cyclohexanone | 25 mols, 15.6 g | C(CC)C1CCC(CC1)C1CCC(CC1)=O | C15H26O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-(4-propylcyclohexyl)cyclohexane | 14 mmols, 4.5 g | C(CC)C1CCC(CC1)C1CCCCC1 | C15H28
